US03932641
Reacting 2-(6-methyl-2-pyridyl)-3-thiobutenamide with morpholine and formalin by the procedure of Example 1 gives N-morpholinomethyl-2-(6-methyl-2-pyridyl)-3-thiobutenamide.

reactant | 2-(6-methyl-2-pyridyl)-3-thiobutenamide | CC1=CC=CC(=N1)C(C(=S)N)C=C | C10H12N2S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | formalin | C=O | CH2O
product | N-morpholinomethyl-2-(6-methyl-2-pyridyl)-3-thiobutenamide | O1CCN(CC1)CNC(C(C=C)C1=NC(=CC=C1)C)=S | C15H21N3OS
